US09422331B2
A solution of tert-butyl(2S,3S)-7-bromo-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (124 mg, 253 μmol) in DMF (2.53 ml) was sparged with Ar for 10 min, then zinc cyanide (59.4 mg, 506 μmol) and tetrakis(triphenyl-phosphine)palladium(0) (29.2 mg, 25.3 μmol) were added. The mixture was sparged with Ar for an additional 5 min, then sealed and heated in the microwave at 110° C. for 20 min, then diluted with H2O and extracted with EtOAc. The combined organic layers were washed with H2O and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(2S,3S)-7-cyano-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (104 mg, 94%) as a white solid. MS m/z 459 (MNa)+.

reactant | tert-butyl(2S,3S)-7-bromo-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 253 μmol, 124 mg | BrC1=CC2=C(N([C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C(CS(=O)(=O)C)=O)C=C1 | C18H24BrN3O6S
reactant | DMF | 2.53 ml | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 506 μmol, 59.4 mg | [C-]#N.[Zn+2].[C-]#N
product | tert-butyl(2S,3S)-7-cyano-2-methyl-1-(2-(methylsulfonyl)acetyl)-4-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 104 mg, 94% | C(#N)C1=CC2=C(N([C@H]([C@@H](C(N2)=O)NC(OC(C)(C)C)=O)C)C(CS(=O)(=O)C)=O)C=C1 | C19H24N4O6S
